US07361659B2
2-Amino-4-methyl-thiazole-5-sulfonic acid bis-(2-hydroxy-ethyl)-amide
A stirred suspension of 2-acetamido-4-methyl-thiazole-5-sulfonic acid bis-(2-hydroxy-ethyl)-amide (0.7 g, 2.16 mmol) in 6N hydrochloric acid (8 ml) was heated for 2 h at 80° C., evaporated., and saturated NaHCO3 solution (50 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (30 ml) and dried (MgSO4). The crude product was further purified by crystallization (hexane) to yield the title compound (0.45 g, 74%) as a white solid. MS (ISP) 281.9 [(M+H)+]; mp 141° C.

reactant | 2-acetamido-4-methyl-thiazole-5-sulfonic acid bis-(2-hydroxy-ethyl)-amide | 2.16 mmol, 0.7 g | OCCN(S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)CCO | C10H17N3O5S2
solvent | hydrochloric acid | 6N, 8 ml | Cl | ClH
product | 2-Amino-4-methyl-thiazole-5-sulfonic acid bis-(2-hydroxy-ethyl)-amide | 0.45 g, 74% | OCCN(S(=O)(=O)C1=C(N=C(S1)N)C)CCO | C8H15N3O4S2
